
* INA105
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA105
* Date: 22JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS145
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* CONNECTIONS:          NON-INVERTING INPUT
*                       |  INVERTING INPUT
*                       |  |  POSITIVE POWER SUPPLY
*                       |  |  |  NEGATIVE POWER SUPPLY
*                       |  |  |  |  OUTPUT
*                       |  |  |  |  |  REFERENCE
*                       |  |  |  |  |  |  SENSE
*                       |  |  |  |  |  |  |
.SUBCKT INA105         1  2  3  4  5  8  9
*
***** A3_105 SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |  INVERTING INPUT
*                       |  | POSITIVE POWER SUPPLY
*                       |  |  |  NEGATIVE POWER SUPPLY
*                       |  |  |  |  OUTPUT
*                       |  |  |  |  |
X1                     14 13  3  4  5  A3_105
R1    2   13   25000
R2    13   9   24997.5
C2    13   9   0.1PF
R3    1   14   25000
R4    14   8   25000
C1CM  14   0   1.5PF
C2CM  13   0   1.5PF
CDIF  14  13   1.5PF
.ENDS
*
* CONNECTIONS:   NON-INVERTING INPUT

*                | INVERTING INPUT

*                | | POSITIVE POWER SUPPLY

*                | | | NEGATIVE POWER SUPPLY

*                | | | | OUTPUT

*                | | | | |

.SUBCKT A3_105   1 2 3 4 5

C1   11 12 1.146E-12

C2    6  7 13.00E-12

DC    5 53 DX

DE   54  5 DX

DLP  90 91 DX

DLN  92 90 DX

DP    4  3 DX

EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5

FB    7 99 POLY(5) VB VC VE VLP VLN 0 10.20E6 -10E6 10E6 10E6 -10E6

GA    6  0 11 12 163.4E-6

GCM   0  6 10 99 163.4E-12

IEE  10  4 DC 39.14E-6

HLIM 90  0 VLIM 1K

Q1   11  2 13 QX

Q2   12  1 14 QX

R2    6  9 100.0E3

RC1   3 11 6.121E3

RC2   3 12 6.121E3

RE1  13 10 4.778E3

RE2  14 10 4.778E3

REE  10 99 5.110E6

RO1   8  5 60

RO2   7 99 60

RP    3  4 20.53E3

VB    9  0 DC 0

VC    3 53 DC 4.500

VE   54  4 DC 2

VLIM  7  8 DC 0

VLP  91  0 DC 20

VLN   0 92 DC 20

.MODEL DX D(IS=800.0E-18)

.MODEL QX NPN(IS=800.0E-18 BF=278.6)

.ENDS
*